US09388189B2
b) N-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-6-yl)methanesulfonamide
N-(4-Bromo-1H-indol-6-yl)methanesulfonamide (226 mg, 0.78 mmol), bis(pinacolato)diboron (398 mg, 1.57 mmol), potassium acetate (235 mg, 2.4 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (32 mg, 0.04 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (21 mg, 0.04 mmol) were suspended in 6 ml dioxane and stirred overnight at 120° C. After evaporation of the solvent under reduced pressure, the residue was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The crude was purified using SP1® Purification System (hexane-ethyl acetate) to give 222 mg (78% yield, 92% purity) of the title compound.

reactant | N-(4-Bromo-1H-indol-6-yl)methanesulfonamide | 0.78 mmol, 226 mg | BrC1=C2C=CNC2=CC(=C1)NS(=O)(=O)C | C9H9BrN2O2S
reactant | bis(pinacolato)diboron | 1.57 mmol, 398 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.4 mmol, 235 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.04 mmol, 21 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-6-yl)methanesulfonamide | 78% yield | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC(=C1)NS(=O)(=O)C)C | C15H21BN2O4S
